US09023864B2
((R)-7-{5-[1-(4-fluorophenyl)-1-hydroxyethyl]-[1,2,3]triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)-acetic acid
The title compound was prepared using procedures described in EXAMPLE 8 from propyl (7-azido-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 2-(4-fluorophenyl)but-3-yn-2-ol. Separation of the resulting diastereoisomers was performed at the ester stage by flash chromatography using a gradient of 10-100% EA/Hex afforded 2 esters. The faster eluting enantiomeric mixture was resolved on chiral HPLC using a 4.6×250 mm Chiralcel OD column eluting with 20% iPrOH, 20% EtOH, 59.75% Hexanes and 0.25% Et3N at 1 mL/min and 254 nm. Retention times=6.9 and 8.4 min. The 2 resulting esters were hydrolyzed separately to afford EXAMPLE 31.1 and 31.2 respectively. The slower eluting enantiomeric mixture was resolved on chiral HPLC using a 4.6×250 mm Chiralcel OD eluting with 20% iPrOH, 20% EtOH, 60% Hexanes at 1 mL/min and 254 nm. Retention times=8.7 and 11.6 min. The 2 resulting esters were hydrolyzed separately to afford EXAMPLE 31.3 and 31.4 respectively. MS (+ESI) m/z: 453.1.

reactant | propyl (7-azido-4-fluoro-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=C(C=CC=C3C2CC(=O)OCCC)F)C1 | C17H19FN4O2
reactant | 2-(4-fluorophenyl)but-3-yn-2-ol | FC1=CC=C(C=C1)C(C)(C#C)O | C10H9FO
product | ((R)-7-{5-[1-(4-fluorophenyl)-1-hydroxyethyl]-[1,2,3]triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)-acetic acid | FC1=CC=C(C=C1)C(C)(O)C1=CN=NN1[C@@H]1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C24H23FN4O3
